US06759429B2
To a solution of 3-nitro-1,2-phenylenediamine (2.67 g) and a 2N KOH (8.7 mL) in ethanol (250 mL) was added a 40% aqueous solution of pyruvic aldehyde (17.72 g) at 60° C. The mixture was heated under reflux for 10 minutes, and thereto was added water (150 mL). The mixture was cooled to room temperature, and concentrated under reduced pressure. The precipitated crystals were collected by filtration, washed with cold water, and dried under reduced pressure to give 2-methyl-5-nitroquinoxaline (2.21 g, 67%) as pale brown solid.

reactant | 3-nitro-1,2-phenylenediamine | 2.67 g | [N+](=O)([O-])C=1C(=C(C=CC1)N)N | C6H7N3O2
reactant | KOH | 2N, 8.7 mL | [OH-].[K+]
reactant | pyruvic aldehyde | 17.72 g | CC(=O)C=O | C3H4O2
reactant | water | 150 mL | O | H2O
solvent | ethanol | 250 mL | C(C)O | C2H6O
product | 2-methyl-5-nitroquinoxaline | 2.21 g, 67% | CC1=NC2=CC=CC(=C2N=C1)[N+](=O)[O-] | C9H7N3O2
